US05428041
Preparation of [4,4-bis(trifluoromethyl)-2-(4-methylphenyl)-4,5-dihydro-1H-imidazol-5-ylidene]-carbamic acid-(4-methylphenyl)-ester
To a solution of α,α-bis(trifluoromethyl)-4,5-bis(4-methylphenyl)-1-methyl-1H-imidazol-2-methanamine (1.0 g, 2.3 mmole) in chloroform (10 mL) was added portionwise, m-chloroperbenzoic acid (1.20 g, 7 mmole). The reaction mixture was refluxed under nitrogen for two hours. The solution was cooled to room temperature and poured into saturated sodium bicarbonate (100 mL). The organic layer was washed successively with saturated sodium bicarbonate solution, 10% sodium sulfite solution, water, and saturated sodium chloride solution, dried over magnesium sulfate and evaporated under vacuum. The residue was triturated with petroleum ether to give the title compound (0.15 g, 14%) as a solid: mp 161°-163°; MS m/e 458 (M+ +H); 1H NMR (CDCl3 /TMS) δ 2.43 (s,6H,CH3), 3.06(s,3H,NCH3), 7.23-7.40(m,4H,Harom), 7.50-7.63(m,2H,Harom), 7.87-7.93(m,2H,Harom).

reactant | α,α-bis(trifluoromethyl)-4,5-bis(4-methylphenyl)-1-methyl-1H-imidazol-2-methanamine | 2.3 mmole, 1.0 g | FC(C(N)(C=1N(C(=C(N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C)C(F)(F)F)(F)F | C21H19F6N3
reactant | m-chloroperbenzoic acid | 7 mmole, 1.20 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | [4,4-bis(trifluoromethyl)-2-(4-methylphenyl)-4,5-dihydro-1H-imidazol-5-ylidene]-carbamic acid-(4-methylphenyl)-ester | 0.15 g, 14% | CC1=CC=C(C=C1)OC(N=C1C(N=C(N1)C1=CC=C(C=C1)C)(C(F)(F)F)C(F)(F)F)=O | C20H15F6N3O2
